US07776315B2
VI.) 4-[(3-chloro-4-fluoro-phenyl)amino]-6-{[4-((S)-6-methyl-2-oxo-morpholin-4-yl)-1-oxo-2-buten-1-yl]amino}-7-cyclopropylmethoxy-quinazoline
A mixture of 700 mg of 4-[(3-chloro-4-fluoro-phenyl)amino]-6-[(4-{N-[(tert.butyl-oxycarbonyl)methyl]-N-((S)-2-hydroxy-prop-1-yl)-amino}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline and 228 mg of p-toluenesulphonic acid hydrate in 20 ml of acetonitrile is refluxed for five hours. Then a further 200 mg of p-toluenesulphonic acid hydrate are added and the mixture is again refluxed for five hours. For working up the reaction mixture is evaporated to dryness. The flask residue is distributed between ethyl acetate and saturated sodium carbonate solution. The organic phase is separated off, washed with saturated sodium carbonate solution, water and saturated sodium chloride solution, dried over magnesium sulphate and evaporated down. The oily residue is brought to crystallisation by stirring with 15 ml diethyl ether.

reactant | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-[(4-{N-[(tert.butyl-oxycarbonyl)methyl]-N-((S)-2-hydroxy-prop-1-yl)-amino}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline | 700 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN(C[C@H](C)O)CC(=O)OC(C)(C)C)=O)OCC1CC1 | C31H37ClFN5O5
reactant | p-toluenesulphonic acid hydrate | 228 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulphonic acid hydrate | 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-{[4-((S)-6-methyl-2-oxo-morpholin-4-yl)-1-oxo-2-buten-1-yl]amino}-7-cyclopropylmethoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CC(O[C@H](C1)C)=O)=O)OCC1CC1 | C27H27ClFN5O4
